US07022738B2
Valine (11.7 g, 100 mmol) was dissolved in 1M aqueous sodium hydroxide (100 mL), and then purified water (150 mL) and tetrahydrofuran (100 mL) were added thereto. The solution was stirred under ice-cooling, and to the solution were dropwise added 1M aqueous sodium hydroxide (100 mL) and a solution of 4-fluorobenzenesulfonyl chloride (17.5 g, 90 mmol) in tetrahydrofuran (100 mL) simultaneously. The mixed solution was stirred and allowed to react at room temperature for 18 hours. After completion of the reaction, the pH was adjusted to 2 to 3, and the solution was extracted with ethyl acetate. The extract was washed successively with dilute hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to remove ethyl acetate. The residue was washed with a hexane-ethyl acetate mixture (prepared by mixing about 10 to 20 fold amount of hexane with 1 fold amount of ethyl acetate; hereinafter referred to as hexane-ethyl acetate mixture) to give N-((4-fluorophenyl)sulfonyl)-L-valine (15.5 g, 56% yield) as white crystals.

reactant | Valine | 100 mmol, 11.7 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | water | 150 mL | O | H2O
reactant | 4-fluorobenzenesulfonyl chloride | 90 mmol, 17.5 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | hexane | CCCCCC | C6H14
solvent | sodium hydroxide | 1M, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1M, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((4-fluorophenyl)sulfonyl)-L-valine | 15.5 g, 56% yield | FC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)O | C11H14FNO4S
